US04904653
2-Hydroxymethyl-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine
A solution of sodium borohydride (0.73 g) in ethanol (30 ml) was added dropwise to a stirred solution of 6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxaldehyde (1.50 g) in ethanol (30 ml) cooled in an ice bath. After 30 minutes the solution was evaporated, the residue dissolved in water (100 ml) and extracted with dichloromethane (2×100 ml). The extracts were dried filtered and evaporated to a viscous oil. Crystallisation from cyclohexane (15 ml) gave the title product, m.p. 112°.

reactant | sodium borohydride | 0.73 g | [BH4-].[Na+]
reactant | 6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxaldehyde | 1.50 g | CN1CC(C2=C(CC1)C=C(S2)C=O)C2=CC=CC=C2 | C16H17NOS
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Hydroxymethyl-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine | OCC1=CC2=C(C(CN(CC2)C)C2=CC=CC=C2)S1 | C16H19NOS
